US09403835B2
Step 2: 3-oxa-7,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid 9H-fluoren-9-ylmethyl ester hydrochloride
3-Oxa-7,9-diaza-bicyclo[3.3.1]nonane-7,9-dicarboxylic acid 7-tert-butyl ester 9-(9H-fluoren-9-ylmethyl) ester (1.29 g, 2.76 mmol) was dissolved into a 4N solution of HCl in 1,4-dioxane (10 mL). The resulting mixture was stirred at RT for 1.5 hours, and then concentrated under vacuum to give a colorless oil. The oil was taken up with Et2O (20 ml) and a precipitation occurred. The precipitate was filtered off, washed with Et2O (2×) and dried under vacuum to give the title compound as a white powder (1.06 g, 92%). 1H NMR (300 MHz, DMSO-d6) δ 9.81 (s, 1H), 8.22 (s, 1H), 7.90 (d, J=7.3 Hz, 2H), 7.64 (d, J=7.4 Hz, 2H), 7.47-7.31 (m, 4H), 4.61-4.44 (m, 2H), 4.31 (t, J=6.0 Hz, 1H), 4.07 (s, 1H), 4.02-3.84 (m, 3H), 3.62-3.53 (m, 1H), 3.51-3.37 (m, 3H), 3.09-2.90 (m, 2H). HPLC (max plot) 97.4%; Rt 2.94 min. UPLC/MS: (MS+) 351.3 ([M+H]+).

reactant | 3-Oxa-7,9-diaza-bicyclo[3.3.1]nonane-7,9-dicarboxylic acid 7-tert-butyl ester 9-(9H-fluoren-9-ylmethyl) ester | 2.76 mmol, 1.29 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C2COCC1CN(C2)C(=O)OC(C)(C)C | C26H30N2O5
reactant | HCl | Cl | ClH
reactant | Et2O | 20 ml | CCOCC | C4H10O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-oxa-7,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid 9H-fluoren-9-ylmethyl ester hydrochloride | 1.06 g, 92% | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C2COCC1CNC2 | InChI=1S/C21H22N2O3.ClH/c24-21(23-14-9-22-10-15(23)12-25-11-14)26-13-20-18-7-3-1-5-16(18)17-6-2-4-8-19(17)20;/h1-8,14-15,20,22H,9-13H2;1H
